US04980363
A mixture of 10 g of 2,4-dimethylthiazole-5-carboxylic acid, 13.6 g of thionyl chloride and 70 ml of toluene was cooled with ice, and with stirring, 8.4 g of N,N-dimethylformamide was added. The mixture was stirred for 3 hours at 3° to 5° C. and then for 1 hour at 20° C., and 200 ml of toluene and 37 g of triethylamine were added. An ethyl acetate solution of aminoacetonitrile prepared from aminoacetonitrile sulfate using ethyl acetate and NaOH was gradually added to the reaction mixture being cooled with ice. The mixture was stirred at room temperature for 1 hour. The reaction mixture was poured into water and extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried, and distilled under reduced pressure to remove the solvent. The residue was purified by silica gel column chromatography. Elution with hexane/ethyl acetate gave 6.6 g (yield 53%) of N-cyanomethyl-2,4-diethylthiazole-5-carboxylic acid amide.

reactant | 2,4-dimethylthiazole-5-carboxylic acid | 10 g | CC=1SC(=C(N1)C)C(=O)O | C6H7NO2S
reactant | thionyl chloride | 13.6 g | S(=O)(Cl)Cl | Cl2OS
reactant | aminoacetonitrile | NCC#N | C2H4N2
reactant | aminoacetonitrile sulfate | S(=O)(=O)(O)O.NCC#N
reactant | NaOH | [OH-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | triethylamine | 37 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
solvent | N,N-dimethylformamide | 8.4 g | CN(C=O)C | C3H7NO
solvent | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
product | N-cyanomethyl-2,4-diethylthiazole-5-carboxylic acid amide | 6.6 g, yield 53% | C(#N)CNC(=O)C1=C(N=C(S1)CC)CC | C10H13N3OS
